US06376555B1
Preparation of (E)-1-iodo-2-(4-bromophenyl)ethylene.
To a heterogeneous mixture of chromium (II) chloride (3.98 g, 32.4 mmol) in tetrahydrofuran (40 mL) at 0° C. was added via syringe pump over 1 hour (in the total absence of light) 4-bromo-benzaldehyde (1.00 g, 5.40 mmol) and iodoform (4.25 g, 10.8 mmol) combined as a homogeneous solution in tetrahydrofuran (20 mL). The cold bath was removed, whereupon a quantitative reaction as indicated occurred within 1 hour. The reaction mixture was diluted with 1:1 ether-hexanes (200 mL) then filtered through a short pad of silica gel, concentrated to a solid tainted with residual iodoform.

reactant | 4-bromo-benzaldehyde | 5.40 mmol, 1.00 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | iodoform | 10.8 mmol, 4.25 g | C(I)(I)I | CHI3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | chromium (II) chloride | 32.4 mmol, 3.98 g | [Cl-].[Cr+2].[Cl-]
product | (E)-1-iodo-2-(4-bromophenyl)ethylene | I\C=C\C1=CC=C(C=C1)Br | C8H6BrI
